US07439263B2
Step A: Ethyl 7-oxospiro[3.5]nonane-6-carboxylate
20.6 mmol of 3-[1-(ethoxycarbonylethyl)cyclobutyl]propionic acid ethyl ester in solution in tetrahydrofuran are added at 0° C. to 22.7 mmol of 95% sodium hydride in suspension in 15 ml of tetrahydrofuran. The reaction mixture is refluxed for 4 hours and then 49 ml of acetic acid are added. The tetrahydrofuran is evaporated off and the residue obtained is extracted with ethyl acetate. The combined organic phases are washed, filtered, dried and evaporated to yield an oil, which is subjected to chromatography on silica (eluant: dichloromethane/ethyl acetate 95/5) to yield the expected product.

reactant | 3-[1-(ethoxycarbonylethyl)cyclobutyl]propionic acid ethyl ester | 20.6 mmol | C(C)OC(CCC1(CCC1)CCC(=O)OCC)=O | C14H24O4
reactant | sodium hydride | [H-].[Na+]
reactant | acetic acid | 49 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Ethyl 7-oxospiro[3.5]nonane-6-carboxylate | O=C1C(CC2(CCC2)CC1)C(=O)OCC | C12H18O3
